US06995174B2
To a solution of 2,4-dichloropyrimidine (149 mg, 1 mmol) in THF (5 mL), tetrakis(triphenylphosphine)palladium (23 mg, 2 mol %) and 0.5M solution of phenylzinc bromide (2.1 mL, 1.05 mmol) in THF were added. The reaction mixture was stirred at 50° C. for overnight. Then it was added saturated ammonium chloride solution and extracted with EtOAc twice. The organic layers were combined, washed with water and dried (MgSO4). Evaporation of solvent gave a yellow residue which was purified by Prep. HPLC to afford a yellowish oil as 2-chloro-4-phenyl-pyrimidine to carry on.

reactant | 2,4-dichloropyrimidine | 1 mmol, 149 mg | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | phenylzinc bromide | 1.05 mmol, 2.1 mL | [Br-].C1(=CC=CC=C1)[Zn+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 23 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-chloro-4-phenyl-pyrimidine | ClC1=NC=CC(=N1)C1=CC=CC=C1 | C10H7ClN2
